US04423241
Preparation of 2-Chloro-6-nitrobenzylideneaminooxyacetic Acid
A warm solution of 2.5 gm. (0.014 mole) of 2-chloro-6-nitrobenzaldehyde in 40 ml. of alcohol 3A was added, with stirring, to a warm solution of 1.5 gm. (0.014 equivs.) of carboxymethoxylamine hemihydrochloride and 1.7 gm. (0.021 equiv.) of anhyd. sodium acetate in 40 ml. of water. The reaction mixture was heated a half-hour on the steam bath, and was then evaporated to a volume of about 20 ml. A solid separated upon cooling; it was filtered from the mixture, washed with cold water and dried in air to give 2.7 gm. (77.3%) of tan-yellow colored material melting at 136°-141° C. Recrystallization from n-hexane/isopropyl alcohol yield 2.5 gm. of pale tan-yellow crystalline product melting at 144°-146° C.

reactant | 2-chloro-6-nitrobenzaldehyde | 0.014 mole | ClC1=C(C=O)C(=CC=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | carboxymethoxylamine hemihydrochloride | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-Chloro-6-nitrobenzylideneaminooxyacetic Acid | ClC(C(=O)O)ON=CC1=CC=CC=C1[N+](=O)[O-] | C9H7ClN2O5
